US08809267B2
Neopenylsulfamate was synthesized according to the method presented in the synthesis of sulfamic acid cyclopropyl ester in Example 1 with the exception of utilizing neopentylalcohol to obtain sulfamic acid 2,2-dimethyl-propyl ester.

reactant | sulfamic acid cyclopropyl ester | C1(CC1)OS(N)(=O)=O | C3H7NO3S
reactant | neopentylalcohol | C(C(C)(C)C)O | C5H12O
product | sulfamic acid 2,2-dimethyl-propyl ester | CC(COS(N)(=O)=O)(C)C | C5H13NO3S
